### PR TITLE
[Merged by Bors] - feature(Analysis/LocallyConvex/WeakSpace): weak closed convex hull equals closed convex hull

### PR DESCRIPTION
**Pull request by mans0954**
The weak closed convex hull is equal to the closed convex hull in the original topology.

---

- [ ] depends on: #29248

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/LocallyConvex/WeakSpace.lean [hunk 1]
```diff
@@ -52,6 +52,15 @@ theorem Convex.toWeakSpace_closure {s : Set E} (hs : Convex ℝ s) :
     simpa [f'] using (hus y <| subset_closure hy).le
   exact (hux'.not_ge <| hus' ·)
 
+open ComplexOrder in
+theorem toWeakSpace_closedConvexHull_eq {s : Set E} :
+    (toWeakSpace 𝕜 E) '' (closedConvexHull 𝕜 s) = closedConvexHull 𝕜 (toWeakSpace 𝕜 E '' s) := by
+  have : ContinuousSMul 𝕜 (WeakSpace 𝕜 E) := WeakBilin.instContinuousSMul _
```
Comment (j-loreaux) [inline Mathlib/Analysis/LocallyConvex/WeakSpace.lean]: This looks like a missing instance. Can you please add it to the appropriate file?

**Review by j-loreaux — COMMENTED** [review]
bors d+
